US08383644B2
(S)-2-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxine-6-carbonitrile
3-{(S)-2-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2-hydroxy-ethoxy}-4-fluoro-benzonitrile (28.9 g) was dissolved in 30 mL dry NMP and 270 mL dry diglyme under nitrogen and heated to 142° C. internal temperature. A suspension of sodium hydride (2.676 g of 60% NaH in mineral oil) in 6 mL of dry NMP and 54 mL of dry diglyme was added all at once via cannula while stirring. After 15 min the reaction was removed from heating and cooled 5 min, then poured into ice/1 L EtOAc/0.5 L 1 N HCl. The layers were separated and the organic layer washed twice with water, once with brine and dried over Na2SO4. The residue was purified by silica gel flash chromatography (DCM to 1:1 DCM/EtOAc) to provide 31 g of partially purified solid which was then crystallized from refluxing 3:1 MeOH/DCM, to give 15 g of desired product. 1H NMR (400 MHz, CDCl3): 7.54 (d, 1H), 7.46 (d, 1H), 7.33 (m, 2H), 7.28-7.24 (m, 1H), 7.23 (d, 1H) 7.19 (m, 1H), 7.0 (m, 3H), 5.12 (m, 1H), 5.04 (s, 2H), 4.37 (m, 1H), 4.03 (m, 1H).

reactant | 3-{(S)-2-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2-hydroxy-ethoxy}-4-fluoro-benzonitrile | 28.9 g | ClC=1C=C(COC2=CC=C(C=C2)[C@@H](COC=2C=C(C#N)C=CC2F)O)C=CC1Cl | C22H16Cl2FNO3
reactant | sodium hydride | 2.676 g | [H-].[Na+]
solvent | NMP | 30 mL | CN1CCCC1=O | C5H9NO
solvent | NMP | 6 mL | CN1CCCC1=O | C5H9NO
solvent | diglyme | 54 mL | COCCOCCOC | C6H14O3
solvent | diglyme | 270 mL | COCCOCCOC | C6H14O3
product | (S)-2-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxine-6-carbonitrile | 15 g | ClC=1C=C(COC2=CC=C(C=C2)[C@H]2COC3=C(O2)C=CC(=C3)C#N)C=CC1Cl | C22H15Cl2NO3
